US08207216B2
A mixture of N,N-dimethylformamide dimethyl acetal (0.30 mL, 2.31 mmol) and 1-iodo-2-fluoro-4-methyl-5-nitro-benzene (0.50 g, 1.78 mmol) in dry DMF (3.0 mL) was stirred at 125° C. for 3 h. The resulting mixture was partitioned between EtOAc and water. The organic layer was washed with brine, dried over MgSO4, filtered, and concentrated. The residue was washed with hexane to give [2-(4-iodo-5-fluoro-2-nitro-phenyl)-vinyl]-dimethyl-amine as dark red solid (0.37 mg, 62%). 1H NMR (CDCl3, 400 MHz): 2.97 (s, 6H), 5.92 (d, J=13.3 Hz, 1H), 7.02 (d, J=13.3 Hz, 1H), 7.09 (d, J=10.2 Hz, 1H), 8.30 (d, J=6.2 Hz, 1H). 13C NMR (CDCl3, 100 MHz,): 40.8, 108.9, 109.1, 137.0, 139.3, 146.0.

reactant | N,N-dimethylformamide dimethyl acetal | 2.31 mmol, 0.30 mL | COC(N(C)C)OC | C5H13NO2
reactant | 1-iodo-2-fluoro-4-methyl-5-nitro-benzene | 1.78 mmol, 0.50 g | IC1=C(C=C(C(=C1)[N+](=O)[O-])C)F | C7H5FINO2
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
product | [2-(4-iodo-5-fluoro-2-nitro-phenyl)-vinyl]-dimethyl-amine | 0.37 mg, 62% | IC1=CC(=C(C=C1F)C=CN(C)C)[N+](=O)[O-] | C10H10FIN2O2
